US05332739
Synthesis of 1,3-dimethyl-6-[4-(3-[3-chlorophenoxy]-propyl) piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride (Compound 96)
The same treatment as in Example 3 was effected except that 4-chlorophenol was replaced with 3-chlorophenol, thereby obtaining 17.5 g of the crystals of 1,3-dimethyl-6-[4-(3-[3-chlorophenoxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.

reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 3-chlorophenol | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | 1,3-dimethyl-6-[4-(3-[3-chlorophenoxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | CN1C(N(C(C=C1N1CCN(CC1)CCCOC1=CC(=CC=C1)Cl)=O)C)=O | C19H25ClN4O3
product | 1,3-dimethyl-6-[4-(3-[3-chlorophenoxy]-propyl) piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride | 17.5 g | Cl.CN1C(N(C(C=C1N1CCN(CC1)CCCOC1=CC(=CC=C1)Cl)=O)C)=O | InChI=1S/C19H25ClN4O3.ClH/c1-21-17(14-18(25)22(2)19(21)26)24-10-8-23(9-11-24)7-4-12-27-16-6-3-5-15(20)13-16;/h3,5-6,13-14H,4,7-12H2,1-2H3;1H
